US04322429
5-(4-(TRIFLUOROMETHYL)PHENYL)-3-AMINOISOXAZOLE
3-(4-Trifluoromethyl)phenyl)-3-methoxyacrylonitrile plus 3-(4-(trifluoromethyl)phenyl)-3,3-dimethoxypropionitrile (1330 grams as a mixture) and hydroxylamine.HCl (1180 grams) were dissolved in methanol and chilled to 20° C. in an ice-bath. Next sodium methylate (1890 grams) was added portionwise over a 11/2 hour period keeping the temperature between 20°-30° C. The reaction mixture was then heated to reflux for about 17 hours and then cooled to 40° C. and filtered. After the filtrate was stripped and poured into ice-water with stirring, a light yellow solid precipitate formed which was filtered and identified by NMR analysis as the desired product, yield 994 grams.

reactant | 3-methoxyacrylonitrile | COC=CC#N | C4H5NO
reactant | 3-(4-(trifluoromethyl)phenyl)-3,3-dimethoxypropionitrile | FC(C1=CC=C(C=C1)C(CC#N)(OC)OC)(F)F | C12H12F3NO2
reactant | hydroxylamine | NO | H3NO
reactant | HCl | 1180 grams | Cl | ClH
reactant | sodium methylate | 1890 grams | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(4-(TRIFLUOROMETHYL)PHENYL)-3-AMINOISOXAZOLE | FC(C1=CC=C(C=C1)C1=CC(=NO1)N)(F)F | C10H7F3N2O
